US07378525B2
(±)-cis-3-Methyl-4-[4-(2-methyl-benzoylamino)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethylamide (C-12)
The title compounds were made following general procedure in Scheme 5 and deprotection in scheme 4-1, substituting 4-(2-methyl-benzoylamino)-naphthalene-1-sulfonyl chloride for 4-benzoylamino-naphthalene-1-sulfonyl chloride, 4-amino-1-benzyl-3-methyl-piperidine for 4-amino-piperidine-1-carboxylic acid tert-butyl ester and ethyl isocyanate for 2-isocyanato-propane. 1H NMR (300 MHz, CDCl3) δ 8.71 (d, 1H), 8.40 (s, 1H), 8.28 (s, 2H), 7.98 (d, 1H), 7.68 (m, 3H), 7.41 (m, 1H), 7.30 (m, 2H), 5.21(d, 1H), 4.36 (m, 1H), 3.35 (m, 2H), 3.15 (m, 4H), 2.98 (m, 2H), 2.57 (s, 3H), 1.71 (m, 2H), 1.40 (m, 2H), 1.10 (m, 1H), 1.03 (t, 3H) 0.63 (d, 3H); LC/MS m/z 509 (M+H)+.

reactant | 4-benzoylamino-naphthalene-1-sulfonyl chloride | C(C1=CC=CC=C1)(=O)NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C17H12ClNO3S
reactant | 4-amino-1-benzyl-3-methyl-piperidine | NC1C(CN(CC1)CC1=CC=CC=C1)C | C13H20N2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
product | (±)-cis-3-Methyl-4-[4-(2-methyl-benzoylamino)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid ethylamide | C(C)NC(=O)N1C[C@H]([C@H](CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1)C)=O)C | C27H32N4O4S
